US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3-methyl-phenol to give (6-methoxy-1-m-tolyloxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 347(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 3-methyl-phenol | CC=1C=C(C=CC1)O | C7H8O
product | (6-methoxy-1-m-tolyloxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)OC=1C=C(C=CC1)C)NC1=NNC=C1 | C20H18N4O2
